US06632810B2
Synthesis of N,N′-bis[3-(5,6,7-trimethoxybenzothiazol-2-yl)propyl]piperazine:
2-(3-Bromopropyl)-5,6,7-trimethoxybenzothiazole (328 mg) and piperazine (39 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-(3-Bromopropyl)-5,6,7-trimethoxybenzothiazole | 328 mg | BrCCCC=1SC2=C(N1)C=C(C(=C2OC)OC)OC | C13H16BrNO3S
reactant | piperazine | 39 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[3-(5,6,7-trimethoxybenzothiazol-2-yl)propyl]piperazine | COC=1C(=C(C2=C(N=C(S2)CCCN2CCN(CC2)CCCC=2SC3=C(N2)C=C(C(=C3OC)OC)OC)C1)OC)OC | C30H40N4O6S2
